US07053089B2
A mixture of 1 g 3-carbamoyl-pyrrolidine-1-carboxylic acid benzyl ester and 24 mL 1M borane-THF was stirred at room temperature for 24 h, then carefully quenched with 50 mL of 3N HCl. The mixture was concentrated under reduced pressure, then partitioned between 50 mL chloroform and 25 mL saturated aqueous sodium carbonate. Concentration of the combined extracts after drying over magnesium sulfate gave 3-aminomethyl-pyrrolidine-1-carboxylic acid benzyl ester:

reactant | 3-carbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | 1 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)C(N)=O | C13H16N2O3
reactant | borane THF | 1M, 24 mL | B.C1CCOC1
product | 3-aminomethyl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CN | C13H18N2O2
